US06432993B1
t-Butyl N-[2-amino-5-(4′-hydroxybiphenyl-4-yloxy)phenyl]-N-methylcarbamate
In a similar manner to that described in Reference Example 7, a reaction was carried out using t-butyl N-[5-(4′-benzyloxybiphenyl-4-yloxy)-2-nitrophenyl]-N-methylcarbamate (14.75 g), palladium on carbon (10%, 0.86 g) and toluene/ethyl acetate=1/1 (140 ml) and the reaction mixture was purified to give the title compound (10.2 g).

reactant | t-butyl N-[5-(4′-benzyloxybiphenyl-4-yloxy)-2-nitrophenyl]-N-methylcarbamate | 14.75 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC=C(C=C1)OC=1C=CC(=C(C1)N(C(OC(C)(C)C)=O)C)[N+](=O)[O-] | C31H30N2O6
reactant | toluene ethyl acetate | C1(=CC=CC=C1)C.C(C)(=O)OCC
catalyst | palladium on carbon | 0.86 g | [Pd] | Pd
solvent | n-hexane ethyl acetate | 140 ml | CCCCCC.C(C)(=O)OCC
product | t-Butyl N-[2-amino-5-(4′-hydroxybiphenyl-4-yloxy)phenyl]-N-methylcarbamate | 10.2 g | NC1=C(C=C(C=C1)OC1=CC=C(C=C1)C1=CC=C(C=C1)O)N(C(OC(C)(C)C)=O)C | C24H26N2O4
